US09233098B2
2. Preparation of 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetic acid
Into a dry reaction vessel, ethyl 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetate (600 mg, 1.21 mmol), lithium hydroxide monohydrate (153 mg, 3.64 mmol), 10 mL tetrahydrofuran, 10 mL methanol, 10 mL water were weighed, and stirred at room temperature for 1 h. The reaction was monitored to be complete by TLC. The solvent was rotate evaporated. It was adjusted to pH=3-4 with 2 N HCl solution. It was filtered, and the filter cake was washed with 20 mL methanol to obtain the product 480 mg as a white solid, at a yield of 85.1%.

reactant | ethyl 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetate | 1.21 mmol, 600 mg | CC=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)CC(=O)OCC | C28H25F3N2O3
reactant | lithium hydroxide monohydrate | 3.64 mmol, 153 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetic acid | 480 mg, yield of 85.1% | CC=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)CC(=O)O | C26H21F3N2O3
